US04267176
A mixture of ethyl 2-(4-formamidopyrimidin-2-yl)glyoxylate and its monohydrate obtained in Preparation 6-(1) was dissolved in ethanol (30 ml.) and thereto was added dropwise 1 N ethanol solution of potassium hydroxide (11 ml.) under ice-cooling with stirring, and then stirring was continued for 2 hours at ambient temperature. The reaction mixture was filtered and the filtered precipitates were washed successively with a small amount of ethanol and diethyl ether and then dried to give a brown powder of potassium 2-(4-aminoprimidin-2-yl)-glyoxylate (0.4 g.). The filtrate and washings were combined together and concentrated to the volume of about 15 ml, and to the residue was added diethyl ether (20 ml.). The precipitates were collected by filtration and washed successively with a small amount of ethanol and diethyl ether to give further a pale brown powder of a mixture of potassium 2-(4-aminopyrimidin-2-yl)-glyoxylate and its monohydrate (0.8 g.).

reactant | ethyl 2-(4-formamidopyrimidin-2-yl)glyoxylate | C(=O)NC1=NC(=NC=C1)C(C(=O)OCC)=O | C9H9N3O4
reactant | potassium hydroxide | 11 ml | [OH-].[K+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 1 N | C(C)O | C2H6O
product | potassium 2-(4-aminoprimidin-2-yl)-glyoxylate | 0.4 g | NC1=NC(=NC=C1)C(C(=O)[O-])=O.[K+] | InChI=1S/C6H5N3O3.K/c7-3-1-2-8-5(9-3)4(10)6(11)12;/h1-2H,(H,11,12)(H2,7,8,9);/q;+1/p-1
